US08486965B2
Production of ethyl 5-ethyl-3-hydroxypyrazine-2-carboxylate
To a suspension of butane-1,2-diamine hydrochloride (6.40 g, 39.7 mmol) in ethanol (60 mL) was added diisopropylethylamine (14 mL, 80.4 mmol), and the mixture was stirred at room temperature for 10 min. To this solution was added dropwise diethyl ketomalonate (6 mL, 39.3 mmol) at 0° C., and the mixture was stirred at room temperature for 1.5 hr with heating under reflux for 20 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in a small amount of ethanol. The solution was passed through silica gel (100 g, eluent, hexane:ethyl acetate=1:1→ethyl acetate). The eluate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=2:1→ethyl acetate) to give the title compound (1.94 g, 25%) as a pale-yellow powder.

reactant | butane-1,2-diamine hydrochloride | 39.7 mmol, 6.40 g | Cl.C(C(CC)N)N
reactant | diisopropylethylamine | 80.4 mmol, 14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl ketomalonate | 39.3 mmol, 6 mL | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | ethyl 5-ethyl-3-hydroxypyrazine-2-carboxylate | 1.94 g, 25% | C(C)C=1N=C(C(=NC1)C(=O)OCC)O | C9H12N2O3
